US06884890B2
Using the same procedure as for the synthesis of 3-(1H-benzoimidazol-2-yl)-1H-indazole-6-carboxylic acid in Example 53(a), step (ii), N-(4-hydroxyphenyl)-3-formyl-1H-indazole-6-carboxamide and 4,5-difluoro 1,2-phenylenediamine gave 3-(5,6-difluoro-1H-benzoimidazol-2-yl)-N-(4-hydroxyphenyl)1H-indazole-6-carboxamide as a tan solid. 1H NMR (DMSO-d6) δ 13.99 (1H, s), 13.27 (1H, s), 10.21 (1H, s), 9.25 (1H, s), 8.52 (1H, d, J=8.7 Hz), 8.21 (1H, s), 7.85 (1H, d, J=9.0 Hz), 7.80 (1H, t, J=9.8 Hz), 7.55 (2H, d, J=8.7 Hz), 7.47 (1H, t, J=9.8 Hz), 6.75 (2H, d, J=8.7 Hz). MS (APCI positive) 406. The starting material was prepared as follows: To a solution of 3-formyl-1H-indazole-6-carboxylic acid (1.6 g, 8.4 mmol) and 4 aminophenol (1.8 g, 16.8 mmol) in dry dimethylformamide (35 mL) was added HATU (3.8 g, 16.8 mmol) followed by triethylamine (1.4 mL, 10.1 mmol). The reaction was stirred at room and monitored by TLC and LC/MS. After two hours the reaction was complete. The solvent was removed by vacuum and the product was purified by flash column chromatography using ethyl acetate: petroleum ether 1:1 to pure ethyl acetate. N-(4-Hydroxyphenyl)-3-formyl-1H-indazole-6-carboxamide was isolated as a tan colored solid. 1H NMR (DMSO-d6) δ 6.79 (2H, d, 8.9 Hz), 759 (2H, d, 8.9 Hz), 7.94 (1H, d, 9.8 Hz), 8.24 (1H, d, 8.2 Hz), 8.31 (1H, s), 9.31 (1H, br s), 10.27 (2H, s). MS (APCI pos) 282.1.

reactant | 3-formyl-1H-indazole-6-carboxylic acid | 8.4 mmol, 1.6 g | C(=O)C1=NNC2=CC(=CC=C12)C(=O)O | C9H6N2O3
reactant | aminophenol | 16.8 mmol, 1.8 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | HATU | 16.8 mmol, 3.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 10.1 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | N-(4-Hydroxyphenyl)-3-formyl-1H-indazole-6-carboxamide | OC1=CC=C(C=C1)NC(=O)C1=CC=C2C(=NNC2=C1)C=O | C15H11N3O3
